US04689339
2-Ethyl-1,2,3,4-tetrahydro-2-naphthoic acid chloride
A mixture of 2-ethyl-1,2,3,4-tetrahydro-2-naphthoic acid (22,0 g) and thionyl chloride is boiled for 5 days. The acid chloride is distilled. B.p. 110°-115° C./0.2 mmHg. Yield 21.6 g, 90%.

reactant | 2-ethyl-1,2,3,4-tetrahydro-2-naphthoic acid | 22,0 g | C(C)C1(CC2=CC=CC=C2CC1)C(=O)O | C13H16O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-Ethyl-1,2,3,4-tetrahydro-2-naphthoic acid chloride | C(C)C1(CC2=CC=CC=C2CC1)C(=O)Cl | C13H15ClO
